US07482350B2
Nitric acid (30 mL, fuming) is added slowly to an ice-cold solution of 2-isopropyl-6-methyl-bromobenzene (10 g, 213 mmol) in HOAc (60 mL). The mixture is heated 1 hour at 90° C. and cooled to room temperature. The reaction mixture is poured into 200 mL ice-water and extracted with CH2Cl2 (3×60 mL). The combined extracts are washed with 1 N NaOH (3×40 mL) and then water (40 mL), dried (Na2SO4), and concentrated to yield crude 2-isopropyl-6-methyl-5-nitro-bromobenzene which is dissolved in HOAc (75 mL)/EtOH (75 mL). To this is added Fe powder (5.3 g, 95 mmol) and the mixture is refluxed for 2 h. The mixture is cooled to room temperature, diluted with water, and neutralized with solid Na2CO3. The mixture is extracted with EtOAc, dried (Na2SO4), and concentrated in vacuo. The residue is purified by flash chromatography (elution with Hex/EtOAc 4:1) to yield 3-bromo-4-isopropyl-2-methyl-aniline. A solution of NaNO2 (798 mg, 12 mmol) in H2O (10 mL) is added dropwise at 0° C. to a slurry of 3-bromo-4-isopropyl-2-methyl-aniline (2.4 g, 11 mmol) in HBF4 (15 mL)-H2O (15 mL), and the mixture is stirred for 1 hour at 0° C. The resulting solid is filtered, washed with cold water and then Et2O, and dried under reduced pressure to yield the diazonium salt as a beige solid. The diazonium salt is added in one portion to mixture of KOAc (1.5 g, 15 mmol) and 18-C-6 (98 mg, 0.37 mmol) in ethanol-free CHCl3 (70 mL) at room temperature. The mixture is stirred for 1 hour and the resulting solid is removed by filtration. The filtrate is washed with water, dried (Na2SO4), and concentrated in vacuo. The residue is purified by flash chromatography (elution with Hex/EtOAc 4:1) to yield 4-bromo-5-isopropyl-1H-indazole. 1H NMR (CDCl3) 8.03 (br, s, 1H), 7.41 (d, 1H), 7.35 (d, 1H), 3.55 (m, 1H), 1.24 (d, 6H).

reactant | Nitric acid | 30 mL | [N+](=O)(O)[O-] | HNO3
reactant | 2-isopropyl-6-methyl-bromobenzene | 213 mmol, 10 g | C(C)(C)C1=C(C(=CC=C1)C)Br | C10H13Br
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | HOAc | 60 mL | CC(=O)O | C2H4O2
solvent | HOAc | 75 mL | CC(=O)O | C2H4O2
solvent | EtOH | 75 mL | CCO | C2H6O
solvent | water | O | H2O
catalyst | Fe | 95 mmol, 5.3 g | [Fe] | Fe
product | 3-bromo-4-isopropyl-2-methyl-aniline | BrC=1C(=C(N)C=CC1C(C)C)C | C10H14BrN
